*SPICE model for MSA1100  
*Start bond wires
.SUBCKT MSA1100 70      20      40
LLB     20      35      .5NH
LLE     40      55      .2NH
*end bond wires
*CALL DIE MODEL
XDIE    70      35      55      MSA11
.ENDS
*end bond wires
* Start die model
.SUBCKT MSA11   DIEOUT  DIEIN   DIEGND
RF      DIEIN   13      300   
RE      Q2E     DIEGND  10    
RB      DIEIN   DIEGND  2400  
RBIAS   Q1E     DIEGND  80    
RDC     DIEIN   DIEOUT  4000  
CF      DIEIN   DIEOUT  0.10PF
CFB     13      DIEOUT  0.058PF
CP1     Q1E     DIEOUT  0.050PF
CP2     Q2E     DIEOUT  0.080PF
CP3     DIEGND  DIEOUT  0.1208PF
CFBL    14      DIEOUT  200PF
LF      13      14      0.35NH
XA11Q1  DIEOUT  DIEIN   Q1E     A11Q1
XA11Q2  DIEOUT  Q1E     Q2E     A11Q2
.ENDS
* Q1 distributed base model
.SUBCKT A11Q1   Q1C     Q1B     Q1E
RB1     Q1B     11     0.42  
RB2     11      12     1.42  
RB3     12      B1     1.24  
RE      E1      Q1E    0.10  
RC      C1      Q1C    5     
Q1      C1      B1     E1      QMSA    1000
DCD1    Q1B     C1     DMOD    1591
DCD2    11      C1     DMOD    1392
DCD3    12      C1     DMOD    882
.ENDS
* Q2 distributed base model
.SUBCKT A11Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     0.67  
RB2     21      22     2.3   
RB3     22      B2     2.0   
RE      E2      Q2E    0.16  
RC      C2      Q2C    5     
Q1      C2      B2     E2      QMSA    625
DCD1    Q2B     C2     DMOD    1051
DCD2    21      C2     DMOD    870
DCD3    22      C2     DMOD    551
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)
*end die model